US07211573B2
c) (S or R)-2-Hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid, entity A
To a solution of 3.60 g (15.0 mmol) (S or R)-2-hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid ethyl ester, entity A, in 50 ml of tetrahydrofurane were added 0.65 g (16 mmol) of lithium hydroxide in 25 ml of water and the mixture was stirred for 18 hours at room temperature. After removal of the organic solvent by distillation the mixture was acidified to pH 1. Extraction with ethylacetate gave 2.70 g (85%) of the title compound as an oil, MS m/e (%): 214.3 (M−H, 100).

reactant | 2-hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid ethyl ester | C(C)OC(C(C(=O)NCC(F)(F)F)(C)O)=O | C8H12F3NO4
reactant | lithium hydroxide | 16 mmol, 0.65 g | [OH-].[Li+]
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 2-Hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid | 2.70 g, 85% | OC(C(=O)O)(C(=O)NCC(F)(F)F)C | C6H8F3NO4
